US04132731
N-(2-Hydroxyethyl)-2,4,6-triiodo-5-methoxyacetamidoisophthalamic Acid
Analogously to Example 1(c), 90.3 g. (150 mmol) of 5-amino-N-(2-hydroxyethyl)-2,4,6-triiodoisophthalamic acid and methoxyacetyl chloride, freshly prepared from 45.5 ml. of methoxyacetic acid/43.5 ml. of thionyl chloride, are reacted in dimethylacetamide; yield: 84.7 g. (84%) m.p. 285° C., with decomposition.

reactant | 5-amino-N-(2-hydroxyethyl)-2,4,6-triiodoisophthalamic acid | 150 mmol | NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)NCCO)I | C10H9I3N2O4
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
reactant | methoxyacetic acid | 43.5 ml | COCC(=O)O | C3H6O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | N-(2-Hydroxyethyl)-2,4,6-triiodo-5-methoxyacetamidoisophthalamic Acid | OCCNC(C=1C(=C(C(=O)O)C(=C(C1I)NC(COC)=O)I)I)=O | C13H13I3N2O6
